US05489606
(2R,3R)-2-(2,4-Difluorphenyl)-3-[(2-hydroxyethyl)-thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol
70 mg (1.60 mmole) of sodium hydride (as a 55% w/w dispersion in mineral oil) were washed with hexane, and then suspended in 3 ml of dimethylformamide. 187 mg (2.4 mmole) of 2-mercaptoethanol were added to the resulting suspension under an atmosphere of nitrogen, whilst ice-cooling, and the mixture was stirred for 10 minutes. At the end of this time, 200 mg (0.80 mmole) of (2R,3S)-2-(2,4-difluorophenyl)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxirane (prepared as described in European Patent Publication 332 387, the disclosure of which is incorporated herein by reference) were added to the mixture, and the resulting mixture was stirred at 50°-60° C. for 30 minutes. The mixture was then cooled after which it was diluted with ethyl acetate. It was then washed with a saturated aqueous solution of sodium chloride; and the solvent was then removed by distillation under reduced pressure. The crude product thus obtained was purified by column chromatography through 10 g of silica gel, using a 4:1 by volume mixture of ethyl acetate and hexane as the eluent, to afford 195 mg of the title compound. A pure specimen melting at 89°-90° C. was then obtained by recrystallization from a mixture of ethyl acetate and hexane.

reactant | sodium hydride | 1.60 mmole, 70 mg | [H-].[Na+]
reactant | 2-mercaptoethanol | 2.4 mmole, 187 mg | SCCO | C2H6OS
reactant | (2R,3S)-2-(2,4-difluorophenyl)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxirane | 0.80 mmole, 200 mg | FC1=C(C=CC(=C1)F)[C@@]1(O[C@H]1C)CN1N=CN=C1 | C12H11F2N3O
solvent | hexane | CCCCCC | C6H14
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,3R)-2-(2,4-Difluorphenyl)-3-[(2-hydroxyethyl)-thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol | 195 mg | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)SCCO)O | C14H17F2N3O2S
